US06495546B1
A mixture of N-benzyl-N-(3-benzyloxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-[(2S)-3-phenoxy-2-(triethylsilyloxy)propyl]amine (25 g) and 10% palladium on activated carbon (50% wet, 2.5 g) in methanol (250 ml) was stirred at room temperature in the presence of hydrogen at an atmospheric pressure for 5 hours. After filtration, the filtrate was evaporated in vacuo to give 8-[(2S)-3-phenoxy-2-(triethylsilyloxy)propylamino]-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-ol (17 g).

reactant | N-benzyl-N-(3-benzyloxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-[(2S)-3-phenoxy-2-(triethylsilyloxy)propyl]amine | 25 g | C(C1=CC=CC=C1)N(C1CC2=C(CCC1)C=CC(=C2)OCC2=CC=CC=C2)C[C@@H](COC2=CC=CC=C2)O[Si](CC)(CC)CC | C40H51NO3Si
reactant | hydrogen | [H][H] | H2
catalyst | palladium on activated carbon | 2.5 g | [Pd] | Pd
solvent | methanol | 250 ml | CO | CH4O
product | 8-[(2S)-3-phenoxy-2-(triethylsilyloxy)propylamino]-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-ol | 17 g | O(C1=CC=CC=C1)C[C@H](CNC1CCCC2=C(C1)C=C(C=C2)O)O[Si](CC)(CC)CC | C26H39NO3Si
